Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Clindamycin / Keflex / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___:  Coronary artery bypass grafting x3, left internal 
mammary artery graft to left anterior descending, reverse 
saphenous vein graft to the diagonal branch and the marginal 
branch.

 
History of Present Illness:
___ male, known to our service, see H&P from ___, 
who underwent cardiac cath on ___ which showed 2 vessel 
disease in the Circumflex and the
LAD (see report below). The FFR on the LAD was 0.66. Patient has 
been having worsening angina related symptoms, left arm and neck 
pain. Was again admitted for observation 2 days ago at ___ 
___. Presents for evaluation with Dr. ___.
 
Past Medical History:
Hypertension   
Low testosterone  
Hyperlipidemia  
BPH   
Glaucoma (needs surgery for this, but it was postponed on
discovery of CAD)
Sleep apnea (does not want mask)
Upper level hearing loss (rarely wears his hearing aids)
Polymyalgia rheumatica
Small hiatal hernia

 
Social History:
___
Family History:
Father with angina, although no MIs per patient.  Paternal 
uncles with heart disease.  Mother with colon cancer.  Brother 
and sister healthy.  No other cardiac hx or hx of spontaneous 
death.  
 
Physical Exam:
Admission Exam
Vital Signs sheet entries for ___: 
BP: 131/72 (left arm ). Heart Rate: 82. Pain Score: 2 (base neck
top left shoulder ). O2 Saturation%: 98.
Height:5'9"   Weight:88.5 kg

General: NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended x[] non-tender [x]  bowel sounds
+[x]
Extremities: Warm [x], well-perfused [x]  No Edema 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:1+   Left:1+
DP           Right:1+   Left:1+
___           Right:1+   Left:1+
Radial       Right:1+   Left:1+

Carotid Bruit        Right:-    Left:-

 
Pertinent Results:
___ Echocardiogram
ATRIUM: No spontaneous echo contrast in the body of the ___ 
___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 
LEFT VENTRICLE: Normal regional LV systolic function. Overall 
normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal aortic diameter at the sinus level. Mildly dilated 
ascending aorta. Simple atheroma in aortic arch. Simple atheroma 
in descending aorta. 
AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Mild to moderate (___) AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PERICARDIUM: No pericardial effusion. 

Conclusions   
Prebypass
No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. There are 
simple atheroma in the aortic arch. There are simple atheroma in 
the descending thoracic aorta. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild to 
moderate (___) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. There is no pericardial effusion. Dr. ___ was notified 
in person of the results on ___ at 1100 am 

Post bypass
Patient is AV paced. Biventricular systolic function is 
unchanged. Mild mitral regurgitation persits. Aorta intact post 
decannulation. Rest of examination is unchanged.    

Chest film
___: Interval removal of the right internal jugular central 
line with interval appearance of a very small right apical 
pneumothorax.  Bilateral layering pleural effusions with 
associated bibasilar airspace opacities likely reflect partial 
lower lobe atelectasis.  The patient is status post median 
sternotomy for CABG with stable postoperative cardiac and 
mediastinal contours.  No pulmonary edema. 
  
Admission Labs:
___ WBC-11.9* RBC-2.86*# Hgb-8.6*# Hct-26.7*# MCV-93 
MCH-30.1 MCHC-32.2 RDW-12.9 RDWSD-44.4 Plt ___
___ ___ PTT-29.5 ___
___ UreaN-10 Creat-0.7 Na-138 K-3.8 Cl-109* HCO3-23 
AnGap-10
___ Mg-2.1

Discharge Labs:
 
___ 06:50AM BLOOD WBC-10.9* RBC-3.44* Hgb-10.3* Hct-32.2* 
MCV-94 MCH-29.9 MCHC-32.0 RDW-13.3 RDWSD-45.8 Plt ___
___ 02:59AM BLOOD WBC-15.4* RBC-3.54* Hgb-10.6* Hct-32.5* 
MCV-92 MCH-29.9 MCHC-32.6 RDW-12.9 RDWSD-43.1 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-106* UreaN-14 Creat-1.0 Na-137 
K-4.5 Cl-102 HCO___ AnGap-9
 
Brief Hospital Course:
Mr. ___ was brought to the operating room on ___ where 
he underwent an Coronary artery bypass grafting x3, left 
internal mammary artery graft to left anterior descending, 
reverse saphenous vein graft to the diagonal branch and the 
marginal branch. The cardiopulmonary bypass time was 61 minutes 
with a cross clamp of 49 minutes. He tolerated the operation 
well and following surgery he was transferred to the ___ for 
invasive monitoring in stable condition. He remained 
hemodynamically stable, sedation was weaned, he awoke 
neurologically intact and was extubated. All other tubes, lines 
and drains were removed per cardiac surgery protocol without 
complication. He was started on Beta-blockers, diuretics and 
these were titrated as needed. On POD1 he was transferred from 
the ICU to the step down floor for continued recovery. His home 
dose Prednisone 3 mg daily was continued. He was seen by 
physical therapy who deemed him safe for home.  He continued to 
make steady progress and was discharged to home with ___ on POD 
4.  He will follow-up with cardiac-surgery and cardiology as an 
outpatient.
 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Famotidine 20 mg PO BID:PRN reflux 
3. Fluticasone Propionate 110mcg 2 PUFF IH DAILY:PRN sob 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. LORazepam 0.5-1 mg PO Q8H:PRN anxiety 
6. Losartan Potassium 100 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN cp 
9. Nortriptyline 50 mg PO QHS 
10. PredniSONE 3 mg PO DAILY 
11. Tamsulosin 0.4 mg PO QHS 
12. Testim (testosterone) 50 mg/5 gram (1 %) transdermal DAILY 
13. Aspirin 81 mg PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Ibuprofen 600 mg PO DAILY:PRN pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. PredniSONE 3 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Docusate Sodium 100 mg PO BID 
hold for loose stool 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
6. Fluticasone Propionate 110mcg 2 PUFF IH DAILY:PRN sob 
7. Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0
9. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1
10. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0
11. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
12. Ibuprofen 600 mg PO DAILY:PRN pain 
13. LORazepam 0.5-1 mg PO Q8H:PRN anxiety 
14. Nortriptyline 50 mg PO QHS 
15. Testim (testosterone) 50 mg/5 gram (1 %) transdermal DAILY 
16. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease
Hypertension 
Hyperlipidemia 
Polymyalgia Rheumatica
BPH 
Glaucoma  
Sleep apnea 
Small Hiatal Hernia
Low testosterone level

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
LLE EVH site- c/d/i
Edema: trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___